US05204178
2.67 g of methacryloyl chloride in 5 ml of chloroform were added dropwise to 5 g of 2-[N-(p-nitrophenyl)-N-methylamino]-ethanol and 2.02 g of pyridine in 40 ml of chloroform while cooling. Thereafter, the resulting reaction solution was first stirred at room temperature and then refluxed for 3.5 hours. It was cooled to room temperature and then 40 ml of water were added to it, after which the chloroform phase was separated off and the aqueous phase was extracted with three times 20 ml of chloroform. After the combined chloroform phases had been dried with Na2SO4 and the chloroform evaporated off, the resulting product was washed with hexane and dried under reduced pressure. 2.6 g of 2-[N-(p-nitrophenyl)-N-methylamino]-ethyl methacrylate were obtained, the IR spectrum of the product in the form of a KBr pellet having bands at 2,950, 2,900, 1,720, 1,600, 1,510, 1,490, 1,320, 1,310, 1,160, 1,110 and 825 cm-1.

reactant | methacryloyl chloride | 2.67 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | 2-[N-(p-nitrophenyl)-N-methylamino]-ethanol | 5 g | [N+](=O)([O-])C1=CC=C(C=C1)N(C)CCO | C9H12N2O3
reactant | pyridine | 2.02 g | N1=CC=CC=C1 | C5H5N
reactant | water | 40 ml | O | H2O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[N-(p-nitrophenyl)-N-methylamino]-ethyl methacrylate | 2.6 g | C(C(=C)C)(=O)OCCN(C)C1=CC=C(C=C1)[N+](=O)[O-] | C13H16N2O4
